US07759339B2
(2-(4-(2-Chlorophenylsulfonyl)piperazin-1-yl)thiazol-4-yl)methanol
2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxylic acid (77 mg, 0.02 mmole) was dissolved in 1 mL of anhydrous THF under nitrogen protection. 0.4 mL of LiAlH4 (1.0M solution in THF) was added to the solution through a syringe at −78° C. After 30 minutes, the reaction mixture was quenched with MeOH, evaporated to dryness, and extracted with EtOAc and 0.1 N tartaric acid solution in water. The organic layer was then dried over Na2SO4, and the solvent was removed. The title compound was obtained in 77% yield after purification using preparative HPLC. 1H NMR (400 MHz, DMSO-D6) δ ppm 3.33 (M, 4 H), 3.47 (dd, J=6.19, 3.92 Hz, 4 H), 4.31 (s, 2 H), 6.63 (s, 1 H), 7.54-7.62 (m, 1 H), 7.65-7.75 (m, 2 H), 7.95-8.02 (m, 1H); ESI-MS: m/z 374.1 (M+H)+.

reactant | 2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)thiazole-4-carboxylic acid | 0.02 mmole, 77 mg | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C=1SC=C(N1)C(=O)O | C14H14ClN3O4S2
reactant | LiAlH4 | 1.0M, 0.4 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (2-(4-(2-Chlorophenylsulfonyl)piperazin-1-yl)thiazol-4-yl)methanol | 77% yield | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)C=1SC=C(N1)CO | C14H16ClN3O3S2
